US04564612
A mixture of 50 ml of ethanol, 1 g of tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, 0.4 g of acetic acid, 3.6 g of ethyl 4-(p-methylphenyl)-2-oxobutyrate and 5 g of molecular sieve 4A is stirred at room temperature for 1 hour, and the mixture is subjected to catalytic reduction over 0.5 g of 5% palladium carbon, at ordinary temperature and at atmospheric pressure. After 7 hours, the catalyst is filtered off and the mixture is concentrated. The residue is treated with oxalic acid in a manner similar to that described in Example 1. The resulting oil is purified by silica gel column chromatography to give 0.3 g of tert-butyl 3(R)-[1-ethoxycarbonyl-3-(p-tolyl)propyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as colorless oil. This product is a mixture of two diastereomers (about 1:1).

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 1 g | N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | ethyl 4-(p-methylphenyl)-2-oxobutyrate | 3.6 g | CC1=CC=C(C=C1)CCC(C(=O)OCC)=O | C13H16O3
catalyst | palladium carbon | 0.5 g | [C].[Pd]
solvent | acetic acid | 0.4 g | C(C)(=O)O | C2H4O2
product | tert-butyl 3(R)-[1-ethoxycarbonyl-3-(p-tolyl)propyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.3 g | C(C)OC(=O)C(CCC1=CC=C(C=C1)C)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C28H36N2O5S
